2107-12-05 08:00:00 Physician Resident Progress Note
Chief Complaint: Weakness and confusion
   24 Hour Events:
   -Renal U/S returns without evidence of hydro
   -CXR with chronic effusion
   -extremity U/S returns with [**Location (un) **] of no DVT
   -Head CT no interval change from 2 year prior head MRI
   -MR spine for r/o without evidence of compression.
   -Vanco this AM ([**2107-12-4**]) for gram positive cocci from blood culture in
   ED
   -Started TUMS as phos binder
   -BL LE weakness noted on AM exam
   -Repeat CHM 7 and LAC demonstrates improving Lactate 5.8-->4.8, but
   concerning worsening of renal function (cr 6.4-->6.8) despite boluses
   and in setting of low urine output. 4 Amps Calc Gluc started in PM per
   renal
   Allergies:
   Morphine Sulfate
   Unknown; Hives;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-4**] 04:58 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-12-4**] 11:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-5**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 76 (71 - 85) bpm
   BP: 116/59(72) {101/53(64) - 138/76(91)} mmHg
   RR: 13 (13 - 19) insp/min
   SpO2: 100%
   Height: 68 Inch
             Total In:
                                                                  4,257 mL
                                                                    104 mL
   PO:
                                                                    290 mL
                                                                     25 mL
   TF:
   IVF:
                                                                  3,867 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                    310 mL
                                                                     15 mL
   Urine:
                                                                    310 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,947 mL
                                                                     89 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   GEN: fatigued-appearing cachectic, no acute distress
   HEENT: Anisocoria with right pupil 4mm->3mm, Left 2mm
1mm, sclera
   anicteric, MMM, OP Clear , could not assess EOM due to poor
   concentration.
   NECK: No JVD, no cervical lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: CTA anteriorly
   ABD: distended, +BS,  moderately firm, nontender,  palpable liver edge
   4cm below RCM, dullness at the flanks, no fluid wave
   EXT: 2+ LE edema to thighs bilaterally, left >right
   NEURO: alert, oriented to person, place, and not year.  Speech slow,
   mild slurring. Moves all 4 extremities.  Left toe upgoing, no clonus.
   4/4 strength throughout but unreliable exam.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   172 K/uL
   9.1 g/dL
   129 mg/dL
   7.0 mg/dL
   15 mEq/L
   4.2 mEq/L
   161 mg/dL
   106 mEq/L
   144 mEq/L
   28.1 %
   9.2 K/uL
        [image002.jpg]
                            [**2107-12-3**]  10:50 PM
                            [**2107-12-4**]  12:22 AM
                            [**2107-12-4**]  05:46 AM
                            [**2107-12-4**]  03:38 PM
                            [**2107-12-4**]  10:14 PM
                            [**2107-12-5**]  06:20 AM
   WBC
   9.9
   7.6
   9.2
   Hct
   31.5
   28.3
   28.1
   Plt
   247
   192
   172
   Cr
   6.9
   6.4
   6.8
   6.7
   7.0
   TCO2
   8
   Glucose
   88
   177
   128
   137
   129
   Other labs: PT / PTT / INR:18.8/41.7/1.7, ALT / AST:33/112, Alk Phos /
   T Bili:326/1.0, Lactic Acid:4.4 mmol/L, Albumin:2.6 g/dL, LDH:688 IU/L,
   Ca++:6.8 mg/dL, Mg++:2.5 mg/dL, PO4:9.5 mg/dL
   Microbiology: Portocath [**12-3**] culture:
      Anaerobic Bottle Gram Stain (Final [**2107-12-4**]):
         REPORTED BY PHONE TO [**Location (un) **] [**Doctor Last Name **] @ 6:21A [**2107-12-4**].
         GRAM POSITIVE COCCI.
         IN PAIRS AND CHAINS.
      Aerobic Bottle Gram Stain (Final [**2107-12-4**]):
         GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
   Assessment and Plan
 LEUKOCYTOSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CANCER (MALIGNANT NEOPLASM), BREAST
 H/O ACIDOSIS, METABOLIC
   This is a 58 year-old female with a history of metastatic breast CA and
   hypertension who presents with confusion and generalized weakness and
   is found to be in severe acute renal failure.
   Plan:
   # Weakness/Confusion: Resolving. Most likely secondary to acute renal
   failure. Only localizing component is RLE weakness. Bowel and bladder
   incontinence are concerning for cord lesion though could also be [**1-22**]
   globally depressed mental status. No acute cause identified on head CT.
   Could be delirium secondary to an underlying infectious process (see
   below for infectious work-up).
   - continue serial neuro exams
   - checking calcium
   - will obtain MR [**Name13 (STitle) **] to rule out cord compression
   -  when renal function improves, will check MR brain with contrast to
   look for evidence of new mets (as was planned by pt's oncologist
   .
   # Acute renal failure: Pt has developed significant renal failure over
   a ten day period with anion gap of 26 and lactate of 4.6. Most likely
   pre-renal, with contribution of NSAID use. Appears intravascularly
   depleted on exam. Fe Urea is 20.8% and FeNa is 0.5% with urine Na of
   14, consistent with pre-renal. No hydronephrosis on renal ultrasound.
   Appreciate renal recs.
   - 2 amps bicarb now
   - replete calcium
   - phos binder
   - will bolus aggressively with fluid overnight, received 1L NS on
   arrival, will now use D5 with sodium bicarb
   - encourage PO fluid intake
   - avoid nephrotoxins and renally dose all medications
   - cont to monitor renal function and if does not improve with IVF
   overnight will continue to work-up for other etiologies
   .
   # Leukocytosis: WBC increased after receiving decadron with the taxol
   and is likely steroid induced. Now trending down. In the setting of new
   acute renal failure and lactic acidosis, cannot rule out infection,
   however there is currently no localizing signs or symptoms. She is
   afebrile and hemodynamically stable. Does have a productive cough, but
   this is a very chronic issue for her with no new change on CXR.
   - f/u blood and urine cultures
   - cont to monitor WBC
   - monitor fever curve and culture if spikes
   .
   # Metastatic breast CA: She has just started a new regimen of Taxol 2
   days ago.
   - will touch base with oncology in the AM regarding treatment plan,
   however will likely defer further treatment pending resolution of ARF
   - cont tussionex for cough
   .
   # Hypertension: Currently normotensive.
   - will hold anti-hypertensives overnight
   .
   # FEN: aggressive IVF as above, replete lytes prn, regular diet as
   tolerated
   .
   # Access: R port-a-cath
   .
   # PPx: heparin SQ, outpatient H2 blocker
   .
   # Code: full code, confirmed with patient and HCP
   .
   # Dispo: ICU for now
   .
   # Comm: with patient and family
   - Healthcare Proxy - daughter (NP in family practice)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2107-12-3**] 09:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-05 09:54:00 Physician Attending Progress Note
Chief Complaint: Acute renal failure, breast ca, altered mental status,
   acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Renal ultrasound negative for hyrdonephrosis. LENI negative for DVT.
   Head CT without change. MRI of LS spine negative for cord compression.
   Received 4 amps of calcium gluconate for low calcium.
   Vomited this AM; emesis was guaiac positive.
   Patient interactive with staff at minimal level; was fluent yesterday,
   now responding in single words.
   Fluid balance positive by over 3L. Remains oliguric.
   Blood cultures ([**12-3**]) positive for gram positive cocci; awaiting
   identification.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Morphine Sulfate
   Unknown; Hives;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-4**] 04:58 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2107-12-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-12-5**] 08:15 AM
   Pantoprazole (Protonix) - [**2107-12-5**] 09:00 AM
   Other medications:
   calcium carbonate, tylenol prn, tessalon perles prn, zofran prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-5**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 76 (71 - 90) bpm
   BP: 113/60(73) {102/53(64) - 143/77(93)} mmHg
   RR: 15 (13 - 19) insp/min
   SpO2: 98%
   Height: 68 Inch
             Total In:
                                                                  4,257 mL
                                                                    178 mL
   PO:
                                                                    290 mL
                                                                     75 mL
   TF:
   IVF:
                                                                  3,867 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                    310 mL
                                                                    125 mL
   Urine:
                                                                    310 mL
                                                                     75 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                  3,947 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///15/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, Right pupil slightly bigger than
   left; both are reactive
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : Right, No(t) Hyperresonant: , Dullness : Left
   base), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , Diminished: left base, No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+ pitting edema, Left: 2+, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): place, person - could not remember
   month/holiday, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed,
   Tone: Not assessed, Babinski - withdrawal
   Labs / Radiology
   9.1 g/dL
   172 K/uL
   129 mg/dL
   7.0 mg/dL
   15 mEq/L
   4.2 mEq/L
   161 mg/dL
   106 mEq/L
   144 mEq/L
   28.1 %
   9.2 K/uL
        [image002.jpg]
                            [**2107-12-3**]  10:50 PM
                            [**2107-12-4**]  12:22 AM
                            [**2107-12-4**]  05:46 AM
                            [**2107-12-4**]  03:38 PM
                            [**2107-12-4**]  10:14 PM
                            [**2107-12-5**]  06:20 AM
   WBC
   9.9
   7.6
   9.2
   Hct
   31.5
   28.3
   28.1
   Plt
   247
   192
   172
   Cr
   6.9
   6.4
   6.8
   6.7
   7.0
   TCO2
   8
   Glucose
   88
   177
   128
   137
   129
   Other labs: PT / PTT / INR:1.8/41.7/1.7, ALT / AST:33/112, Alk Phos / T
   Bili:326/1.0, Lactic Acid:4.4 mmol/L, Albumin:2.6 g/dL, LDH:688 IU/L,
   Ca++:6.8 mg/dL, Mg++:2.5 mg/dL, PO4:9.5 mg/dL
   Imaging: CXR: LLL infiltrate/effusion, not significantly changed from
   [**2107-11-22**]. Lung volumes lower.
   Assessment and Plan
 LEUKOCYTOSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CANCER (MALIGNANT NEOPLASM), BREAST
 .H/O ACIDOSIS, METABOLIC
   ANEMIA
   ALTERED MENTAL STATUS
   BACTEREMIA
   ANEMIA
   Patient's mental status has deteriorated in past 24 hours. BUN is over
   160, and uremic encephalopathy is most likely cause. Head CT without
   acute changes. Will try to get dialysis started; urine output remains
   minimal.  WBC remains normal. Cause of renal failure remains obscure;
   BUN/Creat ratio suggests possible ATN post a pre-renal state.
   Electrolytes and acid-base acceptable, but suspect she has uremic
   encephalopathy. Considering reimaging brain for assessment of
   hemorrhage given worsening mental status this morning. I am not
   convinced the Babinsky is abnormal; the pupils are slightly unequal but
   very reactive.
   Anion gap acidosis likely due to renal failure, although lactate still
   elevated; there may be decreased clearance from liver
 multiple mets
   in liver. Lactate level has not changed for 48 hours. No hypotension.
   Bactermia with gram positive cocci. Patient on vanco. Awaiting
   Identification. Concern about possible line infection.
   Hct down; likely related to underyling cancer. No evidence of bleeding.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2107-12-3**] 09:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2107-12-06 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2107-12-5**] 10:27 AM
   MR [**First Name (Titles) **]
[**Last Name (Titles) 4390**]D - At [**2107-12-5**] 10:27 AM
   US right upper ext due to increased size.
 DIALYSIS CATHETER - START [**2107-12-5**] 05:55 PM
   -Mental Status noted to have deteriorated to one-word answers on AM
   exam, increasingly glossy visage. Anisocoria noted and pt underwent MRI
   which showed diffuse metastatic disease; official read pending.
   Underwent line placement and HD for acute renal failure.
   Vomited times one in AM, occult blood positive, HCT mildly decreased
   but pt appearing hemodynamically stable.
   RUE US IMPRESSION: Limited study due to suboptimal visualization of the
   renal parenchyma most significantly affecting the right side. Within
   limitation, no hydronephrosis or obstructive renal calculi evident.
   [**2107-12-3**] 3:00 pm BLOOD CULTURE LINE: PORT-A CATH.
   BETA STREPTOCOCCUS GROUP B (pan sensitive).
   Allergies:
   Morphine Sulfate
   Unknown; Hives;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-5**] 12:45 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2107-12-5**] 08:00 AM
   Pantoprazole (Protonix) - [**2107-12-5**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2107-12-6**] 12:02 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  denies pain, feels sleepy, no complaints
   Flowsheet Data as of  [**2107-12-6**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 69 (68 - 94) bpm
   BP: 141/72(90) {101/58(68) - 158/96(102)} mmHg
   RR: 16 (11 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,149 mL
                                                                     79 mL
   PO:
                                                                     75 mL
             TF:
   IVF:
                                                                    510 mL
                                                                     79 mL
   Blood products:
                                                                    564 mL
   Total out:
                                                                    533 mL
                                                                    110 mL
   Urine:
                                                                    283 mL
                                                                    110 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                    616 mL
                                                                    -31 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   GEN: fatigued-appearing cachectic, ?jaundiced. no acute distress
   HEENT: Anisocoria with right pupil 4mm,  Left 2mm, sclera anicteric,
   MMdry, OP Clear , EOM intact.
   NECK: No JVD, no cervical lymphadenopathy, trachea midline .  Right
   portocath
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: CTA anteriorly, diminished breath sounds at left base.
   ABD: distended, +BS,  moderately firm, nontender,  palpable liver edge
   4cm below RCM, dullness at the flanks, no fluid wave
   EXT: 2+ LE edema to thighs bilaterally, left >right, right fem HD line
   in place.
   NEURO: alert, oriented to person, place, and not year.  Speech
   continues to be slow, mild slurring. Left toe upgoing, no clonus.  [**3-25**]
   strength throughout upper and lower extremities.
   SKIN: No cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   102 K/uL
   7.9 g/dL
   133 mg/dL
   5.5 mg/dL
   17 mEq/L
   4.3 mEq/L
   139 mg/dL
   106 mEq/L
   143 mEq/L
   24.6 %
   4.9 K/uL
        [image002.jpg]
                            [**2107-12-3**]  10:50 PM
                            [**2107-12-4**]  12:22 AM
                            [**2107-12-4**]  05:46 AM
                            [**2107-12-4**]  03:38 PM
                            [**2107-12-4**]  10:14 PM
                            [**2107-12-5**]  06:20 AM
                            [**2107-12-5**]  08:45 AM
                            [**2107-12-5**]  01:49 PM
                            [**2107-12-6**]  04:10 AM
   WBC
   9.9
   7.6
   9.2
   4.9
   Hct
   31.5
   28.3
   28.1
   27.7
   24.6
   Plt
   247
   192
   172
   102
   Cr
   6.9
   6.4
   6.8
   6.7
   7.0
   7.0
   5.5
   TCO2
   8
   Glucose
   88
   177
   128
   137
   129
   187
   133
   Other labs: PT / PTT / INR:17.6/32.3/1.6, ALT / AST:33/112, Alk Phos /
   T Bili:326/1.0, Differential-Neuts:97.0 %, Band:1.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:4.4 mmol/L, Albumin:2.3 g/dL,
   LDH:688 IU/L, Ca++:6.5 mg/dL, Mg++:2.3 mg/dL, PO4:8.1 mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CANCER (MALIGNANT NEOPLASM), BREAST
 .H/O ACIDOSIS, METABOLIC
   This is a 58 year-old female with a history of metastatic breast CA and
   hypertension who presents with confusion and generalized weakness and
   is found to be in severe acute renal failure.
   Plan:
   # Weakness/Confusion:  Likely multifactorial.   Given MRI findings,
   metastatic disease is likely a major component.   Acute renal failure
   also significant, but BUN will now improve with HD.  Hepatic
   encephalopathy could be causes of acute changes.  [**Month (only) 51**] also be steroid
   related?  (long half life).
   - f/u  MRI this AM
   - continue serial neuro exams
   - initiate lactulose for possible hepatic contribution
   - continue dialysis for uremia.
   - possible neuro consult/EEG to assess encephalopathy further.
   .
    # Leukocytosis: improved with Vancomycin (WBC4 this AM).  Only source
   of infection at this time is +blood culture from portocath.  She is
   currently afebrile and hemodynamically stable.
   - Vanco dosed by level.  Likely 4 week treatment needed.
   - f/u blood and urine cultures
   - cont to monitor WBC
   - monitor fever curve and culture if spikes
   # Acute renal failure: Presumed to be pre-renal.  Renal following;
   - renal diet,
   - f/u  vanc level for GBS,
   - f.u cystatin C.
   - continue phos binder
   - bicarb as needed
   - avoid nephrotoxins and renally dose all medications
   # Metastatic breast CA: New Taxol regimen initiated last month
     f/u with oncology
   .
   # Hypertension: Currently normotensive.
   -          will hold anti-hypertensives
   .
   # FEN: gently replete lytes prn, adjust diet to renal
   ICU Care
   Nutrition:  renal as tolerated
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2107-12-3**] 09:39 PM
   20 Gauge - [**2107-12-5**] 10:34 AM
   Dialysis Catheter - [**2107-12-5**] 05:55 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:   PPI
   Code status: Full code
   Disposition: ICU

2107-12-06 11:01:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, acute renal failure, metastatic
   breast CA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MRI of the brain showed mutiple small mets throughout the brain.
   Patient had one episode of vomiting yesterday; it was guaiac negative.
   Hemodialysis initiated yesterday.
   Ultrasound of right arm negative for clot.
   Blood culture grew gram positive cocci (strep)
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2107-12-5**] 10:27 AM
   MR [**First Name (Titles) **]
[**Last Name (Titles) 4390**]D - At [**2107-12-5**] 10:27 AM
   US right upper ext due to increased size.
 DIALYSIS CATHETER - START [**2107-12-5**] 05:55 PM
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Morphine Sulfate
   Unknown; Hives;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-5**] 12:45 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-12-6**] 08:00 AM
   Pantoprazole (Protonix) - [**2107-12-6**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-6**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 68 (68 - 94) bpm
   BP: 142/73(88) {101/58(68) - 158/86(102)} mmHg
   RR: 14 (11 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,149 mL
                                                                    116 mL
   PO:
                                                                     75 mL
             TF:
   IVF:
                                                                    510 mL
                                                                    116 mL
   Blood products:
                                                                    564 mL
   Total out:
                                                                    533 mL
                                                                    118 mL
   Urine:
                                                                    283 mL
                                                                    118 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                    616 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Lethargic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Left gaze preference; anisocoria
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Waxing and [**Doctor Last Name 533**] this AM, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   102 K/uL
   133 mg/dL
   5.5 mg/dL
   17 mEq/L
   4.3 mEq/L
   139 mg/dL
   106 mEq/L
   143 mEq/L
   24.6 %
   4.9 K/uL
        [image002.jpg]
                            [**2107-12-3**]  10:50 PM
                            [**2107-12-4**]  12:22 AM
                            [**2107-12-4**]  05:46 AM
                            [**2107-12-4**]  03:38 PM
                            [**2107-12-4**]  10:14 PM
                            [**2107-12-5**]  06:20 AM
                            [**2107-12-5**]  08:45 AM
                            [**2107-12-5**]  01:49 PM
                            [**2107-12-6**]  04:10 AM
   WBC
   9.9
   7.6
   9.2
   4.9
   Hct
   31.5
   28.3
   28.1
   27.7
   24.6
   Plt
   247
   192
   172
   102
   Cr
   6.9
   6.4
   6.8
   6.7
   7.0
   7.0
   5.5
   TCO2
   8
   Glucose
   88
   177
   128
   137
   129
   187
   133
   Other labs: PT / PTT / INR:17.6/32.3/1.6, ALT / AST:33/112, Alk Phos /
   T Bili:326/1.0, Differential-Neuts:97.0 %, Band:1.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:4.4 mmol/L, Albumin:2.3 g/dL,
   LDH:688 IU/L, Ca++:6.5 mg/dL, Mg++:2.3 mg/dL, PO4:8.1 mg/dL
   Imaging: CXR: supine - probable left effusion, small lung volumes
   Assessment and Plan
 LEUKOCYTOSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CANCER (MALIGNANT NEOPLASM), BREAST
 .H/O ACIDOSIS, METABOLIC
   ALTERED MENTAL STATUS
   ANEMIA
   Patient's mental status was much better this AM; now she is confused
   and lethargic, while on dialysis. Concern about dysequilibrium syndrome
   on dialysis, possible seizures with gaze preference, hepatic
   encephalopathy with mets to liver.  If this does not clear after
   dialysis, would assess for seizure activity.
   Anion gap acidosis persists, probably related to renal failure.
   Undergoing dialysis.
   Hct drifting down. No apparent bleeding. Not at transfusion threshold.
   Continues on antibiotics for bacteremia.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2107-12-3**] 09:39 PM
   20 Gauge - [**2107-12-5**] 10:34 AM
   Dialysis Catheter - [**2107-12-5**] 05:55 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2107-12-07 07:02:00 Physician Resident Progress Note
Chief Complaint: Altered mental Status
   24 Hour Events:
   MRI Head official read -  Limited study due to lack of intravenous
   contrast, which was not administered due to patient's renal failure.
   Interval development of multiple cerebral and cerebellar masses highly
   suspicious for worsening metastatic disease.
   XRT eval - staged and received [**12-30**] txs
   Renal - HD #2 today; Vanco with HD; initiated epo therapy
   Bilirubin noted to be rising 1
 2.1 yesterday
   - Cx - [**12-3**] b cx - GBS pan sensitive -> plan to continue vanco (level
   20.9)
   EEGordered ; planned for this AM
   Allergies:
   Morphine Sulfate
   Unknown; Hives;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-5**] 12:45 PM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-12-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2107-12-7**] 12:00 AM
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Denies pain, denies shortness of breath, feels
   mental status is better
   Flowsheet Data as of  [**2107-12-7**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 65 (65 - 85) bpm
   BP: 138/58(78) {94/58(69) - 151/82(96)} mmHg
   RR: 13 (13 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                    210 mL
                  PO:
                  TF:
   IVF:
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                     74 mL
   Urine:
                                                                    325 mL
                                                                     74 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,115 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   GEN: cachectic, jaundiced. no acute distress
   HEENT: Anisocoria with right pupil 4mm,  Left 2mm, both sluggishly
   reactive, scleral icterus present, MMdry, OP Clear , EOM intact.
   NECK: No JVD, no cervical lymphadenopathy, trachea midline.  Right
   portocath
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: CTA bilaterally
   ABD: distended, +BS,  moderately firm, nontender,  palpable liver edge
   4cm below RCM, dullness at the flanks, no fluid wave
   EXT: 2+ LE edema to thighs bilaterally, left >right, right fem HD line
   in place.
   NEURO: alert, x3,   Speech continues to be slow, non-slurred, increased
   complexity of speech.  No clonus, equivocal babinski,  4/4 strength
   throughout upper and lower extremities.
   SKIN: No cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   102 K/uL
   8.0 g/dL
   149 mg/dL
   4.9 mg/dL
   18 mEq/L
   4.5 mEq/L
   126 mg/dL
   106 mEq/L
   140 mEq/L
   24.3 %
   0.9 K/uL
        [image002.jpg]
                            [**2107-12-4**]  12:22 AM
                            [**2107-12-4**]  05:46 AM
                            [**2107-12-4**]  03:38 PM
                            [**2107-12-4**]  10:14 PM
                            [**2107-12-5**]  06:20 AM
                            [**2107-12-5**]  08:45 AM
                            [**2107-12-5**]  01:49 PM
                            [**2107-12-6**]  04:10 AM
                            [**2107-12-6**]  04:48 PM
                            [**2107-12-7**]  05:26 AM
   WBC
   7.6
   9.2
   4.9
   0.9
   Hct
   28.3
   28.1
   27.7
   24.6
   24.3
   Plt
   192
   172
   102
   Cr
   6.4
   6.8
   6.7
   7.0
   7.0
   5.5
   4.4
   4.9
   TCO2
   8
   Glucose
   177
   128
   137
   129
   187
   133
   139
   149
   Other labs: PT / PTT / INR:17.5/31.7/1.6
   ALT / AST:31/96, Alk Phos / T Bili:331/3.0
   Lactic Acid:4.4 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L
   DIFFERENTIAL
                                    Neuts
                                    Bands
                                   Lymphs
                                    Monos
                                     Eos
                                    Baso
                                    Atyps
                                    Metas
                                   Myelos
                                    NRBC
   [1][**2107-12-6**] 04:10AM
                                     97*
                                      1
                                     2*
                                      0
                                      0
                                      0
                                      0
                                      0
                                      0
                                     3*
   [2][image003.gif]   RED CELL MORPHOLOGY
                                   Hypochr
                                   Anisocy
                                   Poiklo
                                   Macrocy
                                   Microcy
                                   Polychr
                                   Spheroc
                                   Ovalocy
                                   Target
                                   Schisto
                                    Burr
   [3][**2107-12-6**] 04:10AM
                                   NORMAL
                                     3+
                                     2+
                                     2+
                                     1+
                                   NORMAL
                                 OCCASIONAL
   1+
                                     1+
                                 OCCASIONAL
    Ca++:6.5 mg/dL, Mg++:2.2 mg/dL, PO4:7.3 mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CANCER (MALIGNANT NEOPLASM), BREAST
 .H/O ACIDOSIS, METABOLIC
   This is a 58 year-old female with a history of metastatic breast CA and
   hypertension who presents with confusion and generalized weakness and
   is found to be in severe acute renal failure.
   Plan:
   # Weakness/Confusion: Improving.  Likely multifactorial given MRI
   findings and Acute renal failure.   EEG ordered yesterday for concern
   for seizure; planned for this AM.  Also concerned for liver
   involvement, but pt improved without getting lactulose.
   - EEG today
   - continue serial neuro exams
   - continue dialysis for uremia.
   - continue steroids; Tx2 of radiation today.
   .
    # Leukocytosis: WBC down to 0.9 this am; pt is d+6 from taxol and this
   is likely a result of treatment. Currently on Vanco for +blood cultures
   (x1); all other blood cultures are negative.
   - continue Vanco dosed by level for now.  Likely 4 week treatment
   needed.
   - f/u blood and urine cultures
   - cont to monitor WBC, watch for neutropenia, follow Onc results re
   Neupogen?
   - monitor fever curve and culture if spikes
   # Acute renal failure: Presumed to be pre-renal.  UPO improving. Renal
   following;
   - f/u  vanc level for GBS,
   - continue phos binder
   - bicarb as needed
   - avoid nephrotoxins and renally dose all medications
   # Metastatic breast CA: New Taxol regimen initiated last month
   # Hypertension: Currently normotensive.
   -          will hold anti-hypertensives
   .
   # FEN: gently replete lytes prn,
   ICU Care
   Nutrition:  as  tolerated
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2107-12-3**] 09:39 PM
   20 Gauge - [**2107-12-5**] 10:34 AM
   Dialysis Catheter - [**2107-12-5**] 05:55 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:   PPI
   Code status: Full code
   Disposition: transfer to OMED
   ------ Protected Section ------
   Assessment/Plan Addendum:
   Elevated Bilirubin:  pt jaundiced with bili increasing over last 3
   days.  Pt has known liver mets.  ? hemolysis vs progression of liver
   disease?
   - obtain D bili; consider abdominal imaging
   ------ Protected Section Addendum Entered By:[**Name (NI) 4020**] [**Last Name (NamePattern1) 4021**], MD
   on:[**2107-12-7**] 12:43 ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
   2. javascript:command('LHBF','expand')
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22);

2107-12-07 10:02:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, metastatic breast ca, acute
   renal failure, acidosis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient dialyzed yesterday. Brain radiation started.
   Bilirubin rising.
   WBC falling.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Morphine Sulfate
   Unknown; Hives;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-5**] 12:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-12-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2107-12-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-7**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 66 (65 - 85) bpm
   BP: 132/70(86) {94/58(69) - 151/82(96)} mmHg
   RR: 20 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                    210 mL
                  PO:
                  TF:
   IVF:
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                     74 mL
   Urine:
                                                                    325 mL
                                                                     74 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,115 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Anisocoria
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   64 K/uL
   149 mg/dL
   4.9 mg/dL
   18 mEq/L
   4.5 mEq/L
   126 mg/dL
   106 mEq/L
   140 mEq/L
   24.3 %
   0.9 K/uL
        [image002.jpg]
                            [**2107-12-4**]  12:22 AM
                            [**2107-12-4**]  05:46 AM
                            [**2107-12-4**]  03:38 PM
                            [**2107-12-4**]  10:14 PM
                            [**2107-12-5**]  06:20 AM
                            [**2107-12-5**]  08:45 AM
                            [**2107-12-5**]  01:49 PM
                            [**2107-12-6**]  04:10 AM
                            [**2107-12-6**]  04:48 PM
                            [**2107-12-7**]  05:26 AM
   WBC
   7.6
   9.2
   4.9
   0.9
   Hct
   28.3
   28.1
   27.7
   24.6
   24.3
   Plt
   192
   172
   102
   64
   Cr
   6.4
   6.8
   6.7
   7.0
   7.0
   5.5
   4.4
   4.9
   TCO2
   8
   Glucose
   177
   128
   137
   129
   187
   133
   139
   149
   Other labs: PT / PTT / INR:17.5/31.7/1.6, ALT / AST:31/96, Alk Phos / T
   Bili:331/3.0, Differential-Neuts:97.0 %, Band:1.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:4.4 mmol/L, Albumin:2.5 g/dL,
   LDH:688 IU/L, Ca++:6.5 mg/dL, Mg++:2.2 mg/dL, PO4:7.3 mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CANCER (MALIGNANT NEOPLASM), BREAST
 .H/O ACIDOSIS, METABOLIC
   PANCYTOPENIA
   Mental status improved. Oriented and conversant although lethargic. XRT
   and dialysis will continue. Less likely that hepatic encehalopathy is
   playing a role.
   Pancytopenia likely due to recent chemo. Not yet at threshold for
   transfusion.
   Bilirubin rising; other LFT's up but stable.
   Metabolic acidosis with anion gap persists, likely related to renal
   failure. Urine output beginning to improve.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2107-12-3**] 09:39 PM
   20 Gauge - [**2107-12-5**] 10:34 AM
   Dialysis Catheter - [**2107-12-5**] 05:55 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes